US08293768B2
Synthesis of ethyl 5-(1-(2-cyclopropylethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate
Following the procedure as described in Example 29, making variations as required to replace 4-fluorobenzyl bromide with 2-cyclopropylethyl 4-methylbenzenesulfonate to react with ethyl 3-methyl-5-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylate, the title compound was obtained as a yellowish solid in 80% yield: 1H NMR (300 MHz, CDCl3) δ 7.74 (s, 1H), 6.94 (s, 1H), 4.32 (q, J=7.1 Hz, 2H), 2.54 (s, 3H), 3.94 (t, J=7.1 Hz, 2H), 1.72-1.63 (m, 2H), 1.36 (t, J=7.1 Hz, 3H), 0.77-0.63 (m, 1H), 0.49-0.41 (m, 2H), 0.08-0.01 (m, 2H); MS (ES+) m/z 322.3 (M+1).

reactant | 4-fluorobenzyl bromide | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | 2-cyclopropylethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCC1CC1 | C12H16O3S
reactant | ethyl 3-methyl-5-(5-oxo-1H-1,2,4-triazol-4(5H)-yl)thiophene-2-carboxylate | CC1=C(SC(=C1)N1C=NNC1=O)C(=O)OCC | C10H11N3O3S
product | ethyl 5-(1-(2-cyclopropylethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-3-methylthiophene-2-carboxylate | 80% yield | C1(CC1)CCN1N=CN(C1=O)C1=CC(=C(S1)C(=O)OCC)C | C15H19N3O3S
